US05675033
Ethyl 3-(5,5,8,8,-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)propiolate (Compound A)
To a cold solution (-78° C.) of 2-ethynyl,5,5,8,8-tetramethyl-5,6, 7,8-tetrahydronaphthalene (900 mgs, 4.3 mmols) in ether (20 ml) was added n-butyllithium in hexane (5.6 mmols). The mixture was stirred for 45 mins, and ethylchloroformate (1.3 g, 12 mmols) was added via syringe. Stirring was continued for 45 mins then the mixture was warmed gradually to -10° C. and quenched by adding sodium bicarbonate (NaHCO3) solution (10 ml). Diethyl ether (100 ml) was added, the organic phase washed with water (10 ml), brine (10 ml), and dried (MgSO4). The solvent was removed in vacuo. Purification of the residue over silicagel (5% ethylacetate in hexane) gave the title compound as a colorless oil.

reactant | 2-ethynyl,5,5,8,8-tetramethyl-5,6, 7,8-tetrahydronaphthalene | 4.3 mmols, 900 mgs | C(#C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C16H20
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 5.6 mmols | CCCCCC | C6H14
reactant | ethylchloroformate | 12 mmols, 1.3 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | ether | 20 ml | CCOCC | C4H10O
product | Ethyl 3-(5,5,8,8,-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)propiolate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#CC(=O)OCC)C | C19H24O2
